data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_531798_0,[C:1]([C:2]1([H:11])[C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[C:5]1([O:8][H:10])[H:13])([O:6][H:9])=[O:7]>>[C:1]1([O:6][H:9])([O:7][H:10])[C:2]([C:5](=[O:8])[H:13])([H:11])[C:3]1([C:4]([H:14])([H:15])[H:16])[H:12],55.84185250004907
MR_369359_0,[C:1]([C:4]([C:5]([C:2]([H:16])([H:17])[H:18])(/[C:7](=[N:3]/[N:6]([H:10])[H:11])[H:12])[H:9])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:4](/[C:5]([C:2]([H:16])([H:17])[H:18])=[C:7](\[N:3]([N:6]([H:10])[H:11])[H:9])[H:12])=[O:8])([H:13])([H:14])[H:15],67.97707500001479
MR_696836_0,[C:1](=[C:4]([O:6][H:9])[N:7]([C:2]([H:13])([H:14])[H:15])/[C:5](=[N:8]/[C:3]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11]>>[C:1](/[C:4]([O:6][H:9])=[N:7]/[C:2]([H:13])([H:14])[H:15])(/[C:5](=[N:8]\[C:3]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11],62.613832500001365
MR_524516_0,[C@@:1]([N:5]([C:4]([H:18])([H:19])[H:20])[O:7][C:2]([H:12])([H:13])[H:14])([N:6]([H:10])[H:11])([O:8][C:3]([H:15])([H:16])[H:17])[H:9]>>[C@:1]([N:5]([C:4]([H:18])([H:19])[H:20])[O:8][C:3]([H:15])([H:16])[H:17])([N:6]([H:10])[H:11])([O:7][C:2]([H:12])([H:13])[H:14])[H:9],67.18454250001827
MR_185119_0,[C:1](/[C:3]([N:5]([H:10])[H:11])=[N:6]\[C:2]([N:4]([H:8])[H:9])=[N:7]\[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:3]1([N:5]([H:10])[H:11])[N:6]=[C:2]([N:4]([H:8])[H:9])[N:7]1[H:12])([H:13])([H:14])[H:15],29.762325000012453
MR_7122_0,[C@:1]([C:2]([H:11])([H:12])[H:13])([C:3]([O:5][H:7])=[O:6])([N:4]([H:9])[H:10])[H:8]>>[C@@:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[O:6])[H:8])([N:4]([H:9])[H:10])[O:5][H:7],53.31992999999585
MR_528471_0,[N:1]([C:2]([O:6][H:9])=[O:8])(/[C:3]([N:5]([H:13])[H:14])=[N:7]/[N:4]([H:11])[H:12])[H:10]>>[N:1](=[C:3](/[N:5]([H:13])[H:14])[N:7]([C:2]([O:6][H:9])=[O:8])[N:4]([H:11])[H:12])\[H:10],41.02594999996725
MR_307639_1,[C:1]([C:2]([H:13])([H:14])[H:15])([O:7][H:11])([O:8][H:12])/[N:9]=[C:6](/[C:4]([H:19])([H:20])[H:21])[C:5]([C:3]([H:16])([H:17])[H:18])=[O:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])(=[O:7])/[N:9]=[C:6](/[C:4]([H:19])([H:20])[H:21])[C:5]([C:3]([H:16])([H:17])[H:18])([O:8][H:12])[O:10][H:11],21.53893749997934
MR_99706_2,[C:1](/[C:3](=[C:4](/[N:7]=[C:5](/[C:2]([H:14])([H:15])[H:16])[H:10])[H:9])[O:6][H:8])([H:11])([H:12])[H:13]>>[C:1]([C:3]1([O:6][H:8])[C:4]([H:9])=[N:7][C:5]1([C:2]([H:14])([H:15])[H:16])[H:10])([H:11])([H:12])[H:13],48.91048749999982
MR_573846_0,[N:1]([C:2]([C:4](=[O:6])[H:10])=[O:5])([N:3]([H:8])[H:9])[H:7]>>[N:1](=[C:2](/[C:4](=[O:6])[H:10])[O:5][H:8])\[N:3]([H:7])[H:9],59.13999249999733
MR_524063_1,[C:1]([O:7][N:3]([N:4]([N:5]([H:9])[H:11])[O:8][C:2]([H:15])([H:16])[H:18])[N:6]([H:10])[H:12])([H:13])([H:14])[H:17]>>[C:1]([O:7][N:4]([N:3]([N:6]([H:10])[H:12])[O:8][C:2]([H:15])([H:16])[H:18])[N:5]([H:9])[H:11])([H:13])([H:14])[H:17],40.57728749999427
MR_287023_2,[C:1]([O:3][H:7])([N:5][C:2]([O:4][H:8])[H:9])=[O:6]>>[C:1]1([O:3][H:7])=[N:5][C@@:2]([O:4][H:8])([H:9])[O:6]1,35.93190500002322
MR_34552_0,[C:1]([C:3]([C:2]([H:8])([H:12])[H:13])=[N:5][N:4]([H:6])[H:7])([H:9])([H:10])[H:11]>>[C:1](=[C:3]([C:2]([H:8])([H:12])[H:13])[N:5]([N:4]([H:6])[H:7])[H:11])([H:9])[H:10],64.66889499998487
MR_679926_0,[C@@:1]1(/[C:6]([C:3]([H:14])([H:15])[H:16])=[C:7](/[C:4]([H:17])([H:18])[H:19])[H:10])([H:9])[N:5]([C:2]([H:11])([H:12])[H:13])[O:8]1>>[C:1]1([H:9])=[C:6]([C:3]([H:14])([H:15])[H:16])[C@:7]([C:4]([H:17])([H:18])[H:19])([H:10])[N:5]([C:2]([H:11])([H:12])[H:13])[O:8]1,51.957627500011085
MR_406971_2,[C:1]([C:2]([H:11])([H:12])[H:13])(/[C:4]([C:3]([H:14])([H:15])[H:16])=[N:7]/[H:10])(/[N:5]=[N:6]/[H:9])[H:8]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([H:8])[C:4]([C:3]([H:14])([H:15])[H:16])(/[N:5]=[N:6]/[H:9])[N:7]1[H:10],57.36981500000795
MR_604773_2,[C@:1]1([O:7][H:8])([H:10])[N:4]([H:9])[C:5]([C:2]([H:11])([H:12])[H:13])=[C:6]1[C:3]([H:14])([H:15])[H:16]>>[C:1]1([H:10])=[C:6]([C:3]([H:14])([H:15])[H:16])[C@:5]([C:2]([H:11])([H:12])[H:13])([O:7][H:8])[N:4]1[H:9],67.0088424999625
MR_635927_1,[N:1](/[C:4](=[C:2](\[N:3]([H:10])[H:11])[O:7][H:8])[H:12])([C:5](=[C:6]([H:14])[H:15])[H:13])[H:9]>>[N:1](=[C:4](/[C@:2]([N:3]([H:10])[H:11])([C:5](=[C:6]([H:14])[H:15])[H:13])[O:7][H:8])[H:12])\[H:9],68.40314749997347
MR_613777_1,[C:1]1([O:7][H:9])([H:10])[C:2]([C:3](=[C:5]([H:14])[H:15])[H:12])([C:4](=[C:6]([H:16])[H:17])[H:13])[N:8]1[H:11]>>[C:1](/[C:2]([C:3](=[C:5]([H:14])[H:15])[H:12])=[N:8]/[H:11])([C:4](=[C:6]([H:16])[H:17])[H:13])([O:7][H:9])[H:10],56.44488000002468
MR_347639_0,[C:1]([N:3]([C:4]([O:5][H:9])=[O:8])/[N:6]=[N:7]/[C:2]([H:13])([H:14])[H:15])([H:10])([H:11])[H:12]>>[C:1](/[N:3]=[N:6]/[N:7]([C:2]([H:13])([H:14])[H:15])[C:4]([O:5][H:9])=[O:8])([H:10])([H:11])[H:12],38.09175999999184
MR_265969_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4](=[O:8])[H:11])([O:6][H:10])[O:7][H:9])=[O:5]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4](=[O:8])[H:11])=[O:7])([O:5][H:9])[O:6][H:10],32.77746249999751
MR_692568_1,[N:1](/[C:3](=[N:5]/[O:4][C:2](=[O:6])[H:9])[H:10])([H:7])[H:8]>>[N:1]([C:3]1([H:10])[O:4][N:5]1[C:2](=[O:6])[H:9])([H:7])[H:8],60.09818499996797
